US07262212B2
Tert-butyl N-[1-(4-chlorophenyl)piperidin-4-yl]-N-methylcarbamate (4.71 g, 14.5 mmol) prepared in Reference Example 165 was dissolved in methylene chloride (30 ml), to which trifluoroacetic acid (20 ml) was added dropwise, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was then dissolved in methylene chloride. The solution was neutralized with sodium hydroxide aqueous solution, and the mixture was extracted with methylene chloride. The extract was washed with brine, dried over magnesium sulfate, and then filtered. The filtrate was concentrated under reduced pressure to afford N-[1-(4-chlorophenyl)piperidin-4-yl]-N-methylamine (3.1 g, yield 95%) as a pale brown oil.

reactant | Tert-butyl N-[1-(4-chlorophenyl)piperidin-4-yl]-N-methylcarbamate | 14.5 mmol, 4.71 g | ClC1=CC=C(C=C1)N1CCC(CC1)N(C(OC(C)(C)C)=O)C | C17H25ClN2O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-[1-(4-chlorophenyl)piperidin-4-yl]-N-methylamine | 3.1 g, yield 95% | ClC1=CC=C(C=C1)N1CCC(CC1)NC | C12H17ClN2
